US08497281B2
(cis-2,3,4,4a,9,9a-Hexahydro-indeno[2,1-b]pyridin-1-yl)-(2-methyl-1H-indol-5-yl)-methanone
The title compound is prepared from 2-methyl-1H-indole-5-carboxylic acid and cis-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridine following a procedure analogous to that described in Example 1 [2-(7-aza-1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexa-fluorophosphate is used]. Yield: 39% of theory; LC (method 4): tR=2.01 min; Mass spectrum (ESI+): m/z=331 [M+H]+.

reactant | 2-methyl-1H-indole-5-carboxylic acid | CC=1NC2=CC=C(C=C2C1)C(=O)O | C10H9NO2
reactant | cis-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridine | N1[C@@H]2[C@H](CCC1)C=1C=CC=CC1C2 | C12H15N
reactant | 2-(7-aza-1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexa-fluorophosphate | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
product | (cis-2,3,4,4a,9,9a-Hexahydro-indeno[2,1-b]pyridin-1-yl)-(2-methyl-1H-indol-5-yl)-methanone | Yield: 39% | N1([C@@H]2[C@H](CCC1)C=1C=CC=CC1C2)C(=O)C=2C=C1C=C(NC1=CC2)C | C22H22N2O
